US08026262B2
A. 2-[4-Chloro-5-cyano-2-(difluoromethyl)-1H-indol-1-yl]acetohydrazide
To a solution of [4-chloro-5-cyano-2-(difluoromethyl)-1H-indol-1-yl]acetic acid (0.050 g, 0.175 mmol) in anhydrous THF (2 mL), under N2, was added CDI (0.030 g, 0.184 mmol). The mixture was stirred at rt for 4 h and additional CDI (0.030 g, 0.184 mmol) was added. After 45 min, additional CDI (0.079 g, 0.49 mmol) was added. After 5 min, hydrazine (0.112 g, 3.5 mmol) was added and the mixture was stirred at rt for 30 min. The mixture was partitioned between EtOAc and 0.2N NaOH. The organic phase was washed with 0.2N NaOH and sat'd brine. The combined aqueous phases were extracted with EtOAc (×2). The second EtOAc phases were washed with sat'd NaHCO3 solution and brine. The organic phases were combined, dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography (0-10% MeOH—CH2Cl2 gradient) to afford the title compound (0.027 g, 52% yield): MS (ES) m/z 299 (M+1).

reactant | [4-chloro-5-cyano-2-(difluoromethyl)-1H-indol-1-yl]acetic acid | 0.175 mmol, 0.050 g | ClC1=C2C=C(N(C2=CC=C1C#N)CC(=O)O)C(F)F | C12H7ClF2N2O2
reactant | CDI | 0.184 mmol, 0.030 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | CDI | 0.184 mmol, 0.030 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | CDI | 0.49 mmol, 0.079 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | hydrazine | 3.5 mmol, 0.112 g | NN | H4N2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-[4-Chloro-5-cyano-2-(difluoromethyl)-1H-indol-1-yl]acetohydrazide | 0.027 g, 52% yield | ClC1=C2C=C(N(C2=CC=C1C#N)CC(=O)NN)C(F)F | C12H9ClF2N4O
